US04418131
C. 8-Amino-5-quinolinesulfonic acid
In a 250 ml 1-neck round-bottomed flask fitted with a reflux condenser was placed 25.0 g (0.0724 m) of the pyridinium 8-acetamido-5-quinolinesulfonate and 30 ml water. The slurry was heated to effect solution, 30 ml concentrated hydrochloric acid added and the mixture heated to reflux for 1 hour with stirring. A thick crystalline mass separated during the heating period. The thick slurry was then chilled to 0°-5° C. for several hours, filtered and washed with cold 6 N hydrochloric acid and THF. The yield was 11.3 g (70 percent) of product was off-white needles.

reactant | pyridinium 8-acetamido-5-quinolinesulfonate | 25.0 g | C(C)(=O)NC1=CC=C(C=2C=CC=NC12)S(=O)(=O)[O-].[NH+]1=CC=CC=C1
reactant | hydrochloric acid | 30 ml | Cl | ClH
solvent | water | 30 ml | O | H2O
product | 8-Amino-5-quinolinesulfonic acid | NC1=CC=C(C=2C=CC=NC12)S(=O)(=O)O | C9H8N2O3S
